US05659084
) To a solution of N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine (5.0 g, 0.03 mol) and N,N,N',N'-tetramethylethylene diamine (3.31 g, 0.03 mol) in tetrahydrofuran (40 mL), n-butyl lithium (2.5M, 11.4 mL, 0.03 mol) at 0° C. was slowly added. The solution was stirred for an additional 30 min followed by the quick addition of 1-bromo-7-phenylheptane (7.28 g, 0.03 mol) in tetrahydrofuran (10 mL). The reaction mixture was allowed to warm to room temperature and stirring was continued for 15 h. The reaction mixture was quenched with 10% aqueous hydrochloric acid (50 mL) and stirred for 30 min. The layers were separated, methylene chloride (50 mL) was added to the organic layer and the organics were washed with saturated brine solution (50 mL). The organics were then dried (magnesium sulfate), and concentrated to an oil to yield 2-(8-phenyloctyl)benzaldehyde (3.8 g, 45%): IR (neat film) 2920, 2880, 1695, 1600, 1455 cm-1 ; 1H NMR (CDCl3, 400 MHz) δ 10.25 (s, 1 H), 7.80 (dd, 1 H, J=1.2 and 7.7 Hz), 7.45 (m, 1 H), 7.33-7.13 (m, 7 H), 2.98 (t, 2 H, J=7.7 Hz), 2.58 (t, 2 H, J=7.7 Hz), 1.58 (m, 4 H), 1.30 (m, 8 H).

reactant | N-[(2-methylphenyl)methylene]-1,1-dimethylethanamine | 0.03 mol, 5.0 g | CC1=C(C=CC=C1)C=NC(C)(C)C | C12H17N
reactant | N,N,N',N'-tetramethylethylene diamine | 0.03 mol, 3.31 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 0.03 mol, 2.5M, 11.4 mL | C(CCC)[Li]
reactant | 1-bromo-7-phenylheptane | 0.03 mol, 7.28 g | BrCCCCCCCC1=CC=CC=C1 | C13H19Br
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(8-phenyloctyl)benzaldehyde | 3.8 g, 45% | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
